*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : NA5931-AL
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-920MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt NA5931-AL_freq port1 port2 PARAMS: Cpar=0.2133pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=9.601
+ R2=0.6547
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=516.5
+ L_EL=79.87
+ L_F0=471.6E6
+ PkZ=0
.ends NA5931-AL_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : NA5932-AL
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-850MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt NA5932-AL_freq port1 port2 PARAMS: Cpar=0.2071pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=9.309
+ R2=0.8173
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=579.4
+ L_EL=77.34
+ L_F0=411.7E6
+ PkZ=0
.ends NA5932-AL_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : NA5933-AL
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-720MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt NA5933-AL_freq port1 port2 PARAMS: Cpar=0.1808pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=8.766
+ R2=1
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=650.3
+ L_EL=78.17
+ L_F0=378.2E6
+ PkZ=0
.ends NA5933-AL_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : NA5934-AL
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-670MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt NA5934-AL_freq port1 port2 PARAMS: Cpar=0.2221pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=8.411
+ R2=1.091
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=645.7
+ L_EL=87.64
+ L_F0=381E6
+ PkZ=0
.ends NA5934-AL_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : NA5935-AL
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-670MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt NA5935-AL_freq port1 port2 PARAMS: Cpar=0.1823pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=10.56
+ R2=1.276
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=756.7
+ L_EL=93.23
+ L_F0=408.1E6
+ PkZ=0
.ends NA5935-AL_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : NA5936-AL
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-550MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt NA5936-AL_freq port1 port2 PARAMS: Cpar=0.213pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=13.05
+ R2=1.476
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=722.8
+ L_EL=88.9
+ L_F0=341.4E6
+ PkZ=0
.ends NA5936-AL_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Aircore Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model3B Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ L_Z0=1
+ L_EL=1
+ L_F0=1
C1 N002 Lin {C}
R1 Lout N002 {R1}
T1 Lin 0 N003 0 TD={(L_EL/360)/L_F0} Z0={L_Z0}
R2 Lout N003 {R2}
.ends Model3B








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
